US08012976B2
A mixture of methyl 2-(3-(diethoxymethyl)phenyl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate and ethyl 2-(3-(diethoxymethyl)phenyl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (160 mg, 0.36 mmol) in 85% hydrazine monohydrate (4 mL) and methanol (3 mL) was stirred at 25° C. for overnight. The mixture was extracted with ethyl acetate (50 mL×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give the 8-(3-(diethoxymethyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (90 mg, yield 58%) as a yellow solid. LC-MS (ESI) m/z: 442(M+1)+.

reactant | methyl 2-(3-(diethoxymethyl)phenyl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | C(C)OC(C=1C=C(C=CC1)C1NC=2C=CC=C(C2C(C1C1=CC=CC=C1)=O)C(=O)OC)OCC | C28H29NO5
reactant | ethyl 2-(3-(diethoxymethyl)phenyl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.36 mmol, 160 mg | C(C)OC(C=1C=C(C=CC1)C1NC=2C=CC=C(C2C(C1C1=CC=CC=C1)=O)C(=O)OCC)OCC | C29H31NO5
reactant | hydrazine monohydrate | 4 mL | O.NN
solvent | methanol | 3 mL | CO | CH4O
product | 8-(3-(diethoxymethyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 90 mg, yield 58% | C(C)OC(C=1C=C(C=CC1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=CC=C1)OCC | C27H27N3O3
